US07517995B2
1-(2-chloro-ethyl)-3-(3-cyano-phenyl)-urea
65.00 g (550 mmol) 3-amino-benzonitrile are dissolved in 450 ml dioxane, 56 ml (660 mmol) 1-chloro-2-isocyanato-ethane dissolved in 60 ml dioxane are added dropwise. The reaction mixture is stirred for 3 hours at 60° C. and for 16 hours at ambient temperature. Then the precipitate is suction filtered, washed with diethyl ether and dried.

reactant | 3-amino-benzonitrile | 550 mmol, 65.00 g | NC=1C=C(C#N)C=CC1 | C7H6N2
reactant | 1-chloro-2-isocyanato-ethane | 660 mmol, 56 ml | ClCCN=C=O | C3H4ClNO
solvent | dioxane | 450 ml | O1CCOCC1 | C4H8O2
solvent | dioxane | 60 ml | O1CCOCC1 | C4H8O2
product | 1-(2-chloro-ethyl)-3-(3-cyano-phenyl)-urea | ClCCNC(=O)NC1=CC(=CC=C1)C#N | C10H10ClN3O
